US06130238
A suspension of 3.0 g of 4-methyl-2-oxindole was stirred in 50 mL of acetonitrile at room temperature while 3.3 g of N-chlorosuccinimide was added in portions. Trifluoroacetic acid (1 mL) was then added. The suspension was stirred at room temperature for 3 days during which time solid was always present. The white solid was collected by vacuum filtration, washed with a small amount of cold acetone and dried overnight in a vacuum oven at 40° C. to give 2.5 g (68%) of 5-chloro-4-methyl-2-oxindole.

reactant | 4-methyl-2-oxindole | 3.0 g | CC1=C2CC(NC2=CC=C1)=O | C9H9NO
reactant | N-chlorosuccinimide | 3.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 5-chloro-4-methyl-2-oxindole | 2.5 g, 68% | ClC=1C(=C2CC(NC2=CC1)=O)C | C9H8ClNO
